2173-04-10 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2173-4-9**] 10:00 AM
 NON-INVASIVE VENTILATION - STOP [**2173-4-9**] 01:00 PM
 NON-INVASIVE VENTILATION - START [**2173-4-9**] 05:00 PM
   CPAP worn yesterday afternoon + overnight; BIPAP this morning [**10-1**]
   given resp distress ongoing.
   Ativan prn for anxiety helping
   Steroids
 only got 1 dose 80 mg IV yesterday.  Now w/ 80 mg TID.
   Allergies:
   Amoxicillin
   Rash; Abdominal
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2173-4-10**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-4-10**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.2
   HR: 84 (80 - 98) bpm
   BP: 141/84(98) {136/77(51) - 166/98(112)} mmHg
   RR: 20 (17 - 39) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 145.2 kg (admission): 145 kg
   Height: 60 Inch
             Total In:
                                                                    760 mL
                                                                    272 mL
   PO:
                                                                    600 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    160 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  1,059 mL
                                                                    300 mL
   Urine:
                                                                  1,059 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -299 mL
                                                                    -28 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 633 (630 - 633) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   SpO2: 97%
   ABG: 7.36/48/106/28/0
   Ve: 12.7 L/min
   PaO2 / FiO2: 265
   Physical Examination
   Gen; obsess female in nad, speaking in short puttering sentences and
   out of breath
   HEENT: thick neck, OP clear, edentulous maxilla, eomi
   COR: difficult to auscultate w/ loud respiratory sounds; nl s1s2 rrr
   PUL: diffuse wheezing, poor air flow, prolonged expiratory phase
   ABD: obese, non tender
   EXTREM: no edema, warm
   Labs / Radiology
   369 K/uL
   11.3 g/dL
   144 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.1 mEq/L
   16 mg/dL
   105 mEq/L
   142 mEq/L
   34.7 %
   8.9 K/uL
        [image002.jpg]
                             [**2173-4-9**]  05:00 AM
                             [**2173-4-9**]  09:51 AM
                             [**2173-4-9**]  09:59 AM
                             [**2173-4-10**]  03:52 AM
   WBC
   10.7
   8.9
   Hct
   36.0
   34.7
   Plt
   342
   369
   Cr
   0.8
   0.8
   TCO2
   28
   28
   Glucose
   172
   144
   Other labs: Ca++:8.5 mg/dL, Mg++:2.5 mg/dL, PO4:3.4 mg/dL
   Micro
   None
   Rads
   No new
   Assessment and Plan
   A/P: 50F with asthma, OSA, depression/anxiety, Obesity, UC presents
   with SOB.
   #Respiratory:
   Initial as showed respiratory acidosis and hypoxia, however suspect
   this was venous. Repeat was near normal.   Ddx includes asthma flare,
   Pickwickian syndrome.  CXR possibly showed fluid overload, however no
   crackles on exam or history of CHF, recent normal ECHO, cardiac
   etiologies unlikely especially in setting of negative enzymes and
   unchanged EKG. No fevers, no leukocytosis with  increased sputum
   production, no infiltrate on CXR. Not susicious for PNA or infection,
   although bronchitis possible.  In absence of objective findings will
   hold on antibiotics for now.   Nl d-dimer with RLE swelling, u/s read
   pending. PE likely in setting of nl D-dimer.
   -High dose steroid burst with IV solumedrol 125mg Q6 with taper, pt did
   not respond to home tx with 40mg prednisone.
   -CPAP,  home settings 12cm h20
   -Early NIPPV if pt not responding to nebs/steroids, if retaining C02,
   if hypoxic to <90% on supplemental 02 and nebs, if PEFR <50%.
   -Continuous albuterol nebs, ipratropium
   -continue home monteleukast, zileuton
   -f/u RLE u/s read although low liklihood PE esp with nl D-dimer
   #OSA.
   -CPAP, 12cm h20 at night
   -Modenafil
   #RLE swelling: Very subtle on exam.  D-dimer nl.  Not suspicious for
   DVT.
   -f/u RLE u/s.
   -Tylenol PRN pain
   -Wrap and elevate
   #UC. Continue Mesalamine.
   #Depression with psychotic features. Continue fluoxetine and
   aripiprazole
   #GERD. PPI
   #HTN. Continue diltiazem with parameters
   ICU Care
   Nutrition:
   Reg/ cardiac diet
   Glycemic Control:  ssi
   Lines:
   18 Gauge - [**2173-4-9**] 05:56 AM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: pantoprazole [**Hospital1 **]
   VAP:  na
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2173-04-10 11:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   50 year old female with asthma, SDB admitted with acute respiratory
   distress
   from asthma exacerbation
   24 Hour Events:
   *Cont
d PAP for SDB
   *Steroids weaned
   History obtained from [**Hospital 85**] Medical records, ICU housestaff
   Allergies:
   Amoxicillin
   Rash; Abdominal
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2173-4-10**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2173-4-10**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-4-10**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 91 (80 - 98) bpm
   BP: 155/83(103) {121/71(51) - 166/98(112)} mmHg
   RR: 20 (17 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 145.2 kg (admission): 145 kg
   Height: 60 Inch
             Total In:
                                                                    760 mL
                                                                    530 mL
   PO:
                                                                    600 mL
                                                                    440 mL
   TF:
   IVF:
                                                                    160 mL
                                                                     90 mL
   Blood products:
   Total out:
                                                                  1,059 mL
                                                                    410 mL
   Urine:
                                                                  1,059 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -299 mL
                                                                    120 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 633 (633 - 633) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 20
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   SpO2: 99%
   ABG: ///28/
   Ve: 12.7 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, No(t) Thin
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : end-exp), fair air
   movement, but improved
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.3 g/dL
   369 K/uL
   144 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.1 mEq/L
   16 mg/dL
   105 mEq/L
   142 mEq/L
   34.7 %
   8.9 K/uL
        [image002.jpg]
                             [**2173-4-9**]  05:00 AM
                             [**2173-4-9**]  09:51 AM
                             [**2173-4-9**]  09:59 AM
                             [**2173-4-10**]  03:52 AM
   WBC
   10.7
   8.9
   Hct
   36.0
   34.7
   Plt
   342
   369
   Cr
   0.8
   0.8
   TCO2
   28
   28
   Glucose
   172
   144
   Other labs: Ca++:8.5 mg/dL, Mg++:2.5 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   50 year old female with asthma, SDB on PAP, morbid obesity admitted
   with acute resp distress and asthma exacerbation
   #Asthma: Some improvement with better aeration on physical exam, but
   continues to require high frequency alb nebs. Continue nebs. IV
   steroids Q8hours for today- may be able to change to po tomorrow.
   #SDB: Continue BiPAP
   ICU Care
   Nutrition: pt taking po
   Glycemic Control:  SSI
   Lines:
   18 Gauge - [**2173-4-9**] 05:56 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2173-04-11 07:04:00 Physician Resident Progress Note
Chief Complaint: 50F with asthma, OSA, depression/anxiety, Obesity, UC
   presents with SOB, asthma exacerbation.
   24 Hour Events:
   increased nebs to standing
   aded fluticasone / salmeterol
   foley out
   triamcinolone for eczema
   Allergies:
   Amoxicillin
   Rash; Abdominal
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2173-4-10**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2173-4-10**] 03:44 PM
   Other medications:
   Changes to medical and family history:none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
more wheezy
 this am than last night but overall
   feeling better that admission.  Needing nebulizers Q3 hours. Tolerating
   PO. Moving bowels, OOB with assist. Slept well with cpap in place.
   Flowsheet Data as of  [**2173-4-11**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.8
C (98.2
   HR: 93 (80 - 104) bpm
   BP: 150/84(107) {121/66(81) - 168/91(107)} mmHg
   RR: 20 (18 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 145.2 kg (admission): 145 kg
   Height: 60 Inch
                  Total In:
                                                                  1,610 mL
                  PO:
                                                                  1,520 mL
                  TF:
   IVF:
                                                                     90 mL
   Blood products:
   Total out:
                                                                    835 mL
                                                                    400 mL
   Urine:
                                                                    835 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    775 mL
                                                                   -400 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   Ventilator mode: CPAP/PSV
   PS : 10 cmH2O
   RR (Set): 14
   PEEP: 12 cmH2O
   FiO2: 40%
   SpO2: 94%
   ABG: ///23/
   Physical Examination
   Gen; obsese female , mildly diaphoretic, less tachypneic, speaking in
   full sentences, some pursed lip breathing
   HEENT: thick neck, OP clear, edentulous maxilla, eomi
   COR: difficult to auscultate w/ loud respiratory sounds; nl s1s2 rrr
   PUL: diffuse wheezing, improved air flow, prolonged expiratory phase
   ABD: obese, non tender
   EXTREM: no edema, warm
   Labs / Radiology
   246 K/uL
   12.7 g/dL
   194 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.9 mEq/L
   20 mg/dL
   103 mEq/L
   138 mEq/L
   38.9 %
   10.3 K/uL
        [image002.jpg]
                             [**2173-4-9**]  05:00 AM
                             [**2173-4-9**]  09:51 AM
                             [**2173-4-9**]  09:59 AM
                             [**2173-4-10**]  03:52 AM
                             [**2173-4-11**]  02:00 AM
   WBC
   10.7
   8.9
   10.3
   Hct
   36.0
   34.7
   38.9
   Plt
   342
   369
   246
   Cr
   0.8
   0.8
   0.8
   TCO2
   28
   28
   Glucose
   172
   144
   194
   Other labs: Ca++:8.5 mg/dL, Mg++:2.5 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   A/P: 50F with asthma, OSA, depression/anxiety, Obesity, UC presents
   with SOB.
   #Respiratory:
   Asthma exacerbation is most likely.  Doubt secondary process like PE,
   CHF exacerbation, or pneumonia, w/o fever, Leukocytosis.  Also
   improving w/ nebs and steroids.
   Still requiring positive pressure ventilation to help patient
   subjectively feel better.
   Given persistent low Peak flows, 140 this am and lung exam with
   impressive wheezing, will continue IV steroids for now.
   -          IV solumedrol, decrease frequency to Q12, consider taper to
   PO prednisone in am
   -          CPAP as needed, wean to NC, but on at night
   -          Cont around the clock nebs w/ albuterol + atrovent,
   currently Q3, will try to space out in anticipation of transfer to
   floor.
   -          Cont montelukast, sileuton
   -          Restarted home fluticasone / salmeterol, tiotroprium
   #OSA.
   -CPAP, 12cm h20 at night
   -Modenafil
   #UC. Continue Mesalamine.
   #Depression with psychotic features. Continue fluoxetine and
   aripiprazole
   #GERD. PPI
   #HTN. Continue diltiazem with parameters
   ICU Care
   Nutrition:
   Reg/ cardiac diet
   Glycemic Control:  ssi
   Lines:
   18 Gauge - [**2173-4-9**] 05:56 AM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: pantoprazole [**Hospital1 **]
   VAP:  na
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: in icu for observation and frequent care/nebs

2173-04-11 16:36:00 Physician Attending Progress Note
Chief Complaint: shortness of breath
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   50 year old female with asthma, SDB admitted w/asthma exacerbation
   24 Hour Events:
   Continued nebulizers.  Flovent/serevent added.
   Some improvement in subjective SOB
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Amoxicillin
   Rash; Abdominal
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Solumedrol, PPI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-4-11**] 04:36 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.2
   HR: 82 (80 - 108) bpm
   BP: 142/79(95) {129/66(81) - 168/91(107)} mmHg
   RR: 20 (18 - 29) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 145.2 kg (admission): 145 kg
   Height: 60 Inch
                  Total In:
                                                                  1,610 mL
                                                                    720 mL
   PO:
                                                                  1,520 mL
                                                                    720 mL
   TF:
   IVF:
                                                                     90 mL
   Blood products:
   Total out:
                                                                    835 mL
                                                                    700 mL
   Urine:
                                                                    835 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    775 mL
                                                                     20 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 93%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, No(t) Thin
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Wheezes : scattered end exp wheezes, Diminished: fair aeration)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Extremities: Right: Absent, Left: Absent, Cyanosis, Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   12.7 g/dL
   246 K/uL
   194 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.9 mEq/L
   20 mg/dL
   103 mEq/L
   138 mEq/L
   38.9 %
   10.3 K/uL
        [image002.jpg]
                             [**2173-4-9**]  05:00 AM
                             [**2173-4-9**]  09:51 AM
                             [**2173-4-9**]  09:59 AM
                             [**2173-4-10**]  03:52 AM
                             [**2173-4-11**]  02:00 AM
   WBC
   10.7
   8.9
   10.3
   Hct
   36.0
   34.7
   38.9
   Plt
   342
   369
   246
   Cr
   0.8
   0.8
   0.8
   TCO2
   28
   28
   Glucose
   172
   144
   194
   Other labs: Ca++:8.5 mg/dL, Mg++:2.5 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   50 year old female admitted with status asthmaticus:
   #Asthma: subjective improvement over past day, though only fair air
   movement, and still on high nebulizer frequency
   Continue nebs, taper as tolerated. Decrease IV steroids to [**Hospital1 **] dosing.
   Remains in ICU due to high frequency of nebs
   #SDB: PAP changed to home settings of CPAP 12. continue Provigil.
   ICU Care
   Nutrition:
   Comments: taking po
   Glycemic Control:
   Lines:
   20 Gauge - [**2173-4-10**] 04:59 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Pt is critically ill

2173-04-12 07:51:00 Physician Resident Progress Note
Chief Complaint: 50F with asthma, OSA, depression/anxiety, Obesity, UC
   presents with SOB
   24 Hour Events:
   -peak flows still 140 in am, continued on Q3 nebs, peak flow increased
   to 200 in afterniing
   -decreased steroids to 80mg IV Q12, however kept on IV
   with consideration for taper to PO today as pt still looked wheezy
   yesterday
   Allergies:
   Amoxicillin
   Rash; Abdominal
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2173-4-11**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2173-4-11**] 11:45 PM
   Other medications:
   Changes to medical and family history:None
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Slept well, CPAP improves symptoms, wears during
   day for increased comfort.  Feels better.
   Flowsheet Data as of  [**2173-4-12**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.4
C (97.6
   HR: 80 (74 - 108) bpm
   BP: 153/105(116) {141/75(89) - 165/105(118)} mmHg
   RR: 16 (16 - 29) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 145.2 kg (admission): 145 kg
   Height: 60 Inch
                  Total In:
                                                                    960 mL
                  PO:
                                                                    960 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,050 mL
                                                                      0 mL
   Urine:
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -90 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 93%
   ABG: ///29/
   Physical Examination
   Gen; obsese female , less tachypneic, speaking in full sentences, some
   pursed lip breathing, initially wearing CPAP, appears more comfortable
   HEENT: thick neck, OP clear, edentulous maxilla, eomi
   COR: difficult to auscultate w/ loud respiratory sounds; nl s1s2 rrr
   PUL: diffuse wheezing, improved air flow, prolonged expiratory phase
   ABD: obese, non tender
   EXTREM: no edema, warm
   Labs / Radiology
   339 K/uL
   12.4 g/dL
   170 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.0 mEq/L
   19 mg/dL
   102 mEq/L
   141 mEq/L
   36.7 %
   12.3 K/uL
        [image002.jpg]
                             [**2173-4-9**]  05:00 AM
                             [**2173-4-9**]  09:51 AM
                             [**2173-4-9**]  09:59 AM
                             [**2173-4-10**]  03:52 AM
                             [**2173-4-11**]  02:00 AM
                             [**2173-4-12**]  03:33 AM
   WBC
   10.7
   8.9
   10.3
   12.3
   Hct
   36.0
   34.7
   38.9
   36.7
   Plt
   342
   369
   246
   339
   Cr
   0.8
   0.8
   0.8
   0.7
   TCO2
   28
   28
   Glucose
   172
   144
   194
   170
   Other labs: Ca++:8.7 mg/dL, Mg++:2.5 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   A/P: 50F with asthma, OSA, depression/anxiety, Obesity, UC presents
   with SOB.
   #Respiratory:
   Asthma exacerbation is most likely.  Doubt secondary process like PE,
   CHF exacerbation, or pneumonia, w/o fever, Leukocytosis.  Also
   improving w/ nebs and steroids.
   Requiring nebs less frequently, now Q4 hours.
   -  Continue Q4 hour nebs, space out as tolerated
   -  Taper steroids to 60mg [**Hospital1 **] prednisone, continue to taper as
   tolerates
   -  CPAP as needed, wean to NC, but on at night.
   -   Cont montelukast, sileuton
   -    Restarted home fluticasone / salmeterol, tiotroprium
   -    Monitor peak flows, was 200 yesterday afternoon
   #OSA.
   -CPAP, 10/10cm h20 at night
   -Modenafil
   #UC. Continue Mesalamine.
   #Depression with psychotic features. Continue fluoxetine and
   aripiprazole
   #GERD. PPI
   #HTN. Continue diltiazem with parameters
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  ISS while on steroids
   Lines:
   20 Gauge - [**2173-4-10**] 04:59 PM
   Prophylaxis:
   DVT:  Pneumoboots, Hep SC
   Stress ulcer:  Home dose PPI
   VAP:  Not indicated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to medicine

2173-04-12 10:40:00 Physician Attending Progress Note
Chief Complaint: SOB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   50 yo female with asthma, depression and SDB admitted w/status
   asthmaticus
   24 Hour Events:
   *Steroids weaned
   *Neb frequency q3hours
   *CPAP overnight
   *Pt improved this am
   History obtained from Patient
   Allergies:
   Amoxicillin
   Rash; Abdominal
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2173-4-12**] 08:00 AM
   Pantoprazole (Protonix) - [**2173-4-12**] 08:00 AM
   Other medications:
   [**Doctor First Name 1116**] [**Hospital1 **], vit D, Ca, Singulair, Provigil, Atrovent, albuterol,
   Prozac, Diltiazem, Abilify, SSI, Spiriva, Advair, Solumedrol 80mg Q12
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-4-12**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.3
C (97.4
   HR: 101 (74 - 108) bpm
   BP: 134/122(126) {134/77(89) - 168/122(126)} mmHg
   RR: 25 (16 - 25) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 145.2 kg (admission): 145 kg
   Height: 60 Inch
                  Total In:
                                                                    960 mL
                                                                    240 mL
   PO:
                                                                    960 mL
                                                                    240 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,050 mL
                                                                    100 mL
   Urine:
                                                                  1,050 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -90 mL
                                                                    140 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: No(t) Crackles : , No(t) Bronchial: , Wheezes :
   still exp wheezes, fair air movement, No(t) Diminished: , No(t) Absent
   : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   12.4 g/dL
   339 K/uL
   170 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.0 mEq/L
   19 mg/dL
   102 mEq/L
   141 mEq/L
   36.7 %
   12.3 K/uL
        [image002.jpg]
                             [**2173-4-9**]  05:00 AM
                             [**2173-4-9**]  09:51 AM
                             [**2173-4-9**]  09:59 AM
                             [**2173-4-10**]  03:52 AM
                             [**2173-4-11**]  02:00 AM
                             [**2173-4-12**]  03:33 AM
   WBC
   10.7
   8.9
   10.3
   12.3
   Hct
   36.0
   34.7
   38.9
   36.7
   Plt
   342
   369
   246
   339
   Cr
   0.8
   0.8
   0.8
   0.7
   TCO2
   28
   28
   Glucose
   172
   144
   194
   170
   Other labs: Ca++:8.7 mg/dL, Mg++:2.5 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   50 year old female with asthma, SDB, depression admitted with asthma
   exacerbation
   #Asthma: slow improvement in respiratory status
   Continue inhalers/asthma regimen, nebs q4 hrs, taper  steroids to 60mg
   po qd
   #SDB: continue CPAP/provigil
   #Depression: on Abilify/prozac
   #HTN on diltiazem
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Comments: expect BG
   to improve as steroids tapered
   Lines:
   20 Gauge - [**2173-4-10**] 04:59 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes